US04774245
B. 1,2,3,3a,4,5-hexahydro-4-oxo-pyrrolo(1,2-a)quinoxaline
1.5 ml of o-fluoro-nitrobenzene and 8.2 g of L-proline were stirred at 60° C. for 3 hours in 50 ml DMSO. The mixture was then evaporated in vacuo to give a yellow oil. This oil was dissolved in 250 ml 96% ethanol and was hydrogenated at normal pressure at room temperature using 2 g 5% Pd/C as catalyst. After completion of hydrogen uptake, the mixture was filtered and evaporated in vacuo to give the title compound. M.p. 169°-172° C.

reactant | o-fluoro-nitrobenzene | 1.5 ml | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | L-proline | 8.2 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
solvent | ethanol | 250 ml | C(C)O | C2H6O
catalyst | Pd/C | 2 g | [Pd] | Pd
product | 1,2,3,3a,4,5-hexahydro-4-oxo-pyrrolo(1,2-a)quinoxaline | O=C1C2N(C3=CC=CC=C3N1)CCC2 | C11H12N2O
